US07368578B2
To a mixture of methyl 5-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-methanesulfonyloxybenzoate (0.20 g) and toluene (10 mL) was added thionyl chloride (0.055 g), and the mixture was heated under reflux for 1 hr. After concentration of the reaction mixture, ethyl acetate was added to the residue. The ethyl acetate layer was washed successively with saturated aqueous sodium hydrogen carbonate and saturated brine, dried over anhydrous magnesium sulfate and concentrated to give methyl 5-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-methanesulfonyloxybenzoate (0.14 g, yield 67%) as colorless crystals. Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 146-147° C.

reactant | methyl 5-{4-[(4-hydroxymethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-methanesulfonyloxybenzoate | 0.20 g | OCC1=CC(=C(OCC=2N=C(OC2C)C=2C=CC(=C(C(=O)OC)C2)OS(=O)(=O)C)C=C1)OC | C22H23NO9S
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
reactant | thionyl chloride | 0.055 g | S(=O)(Cl)Cl | Cl2OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 5-{4-[(4-chloromethyl-2-methoxyphenoxy)methyl]-5-methyl-1,3-oxazol-2-yl}-2-methanesulfonyloxybenzoate | 0.14 g, yield 67% | ClCC1=CC(=C(OCC=2N=C(OC2C)C=2C=CC(=C(C(=O)OC)C2)OS(=O)(=O)C)C=C1)OC | C22H22ClNO8S
